US07405221B2
2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine from Reference Example 3 was reacted 6-chloro-3-pyridinemethanol according to the procedure described in Example 59 to afford 2-(6-chloro-3-pyridylmethoxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine (HRf): HPLC/MS: m/e=476 (M++1); Rt=4.45 min; 1H-NMR 400 MHz (CDCl3): δ 5.51 (s, 2H), 7.05 (d, J=9 Hz, 2H), 7.20 (d, J=9Hz, 1H), 7.25-7.30 (m, 4H), 7.38-7.40 (m, 1H), 7.85 (m, 1H), 8.55 (d, J=2 Hz, 1H), 8.60 (s, 1H).

reactant | 2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine | CSC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2S
reactant | 6-chloro-3-pyridinemethanol | ClC1=CC=C(C=N1)CO | C6H6ClNO
product | 2-(6-chloro-3-pyridylmethoxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | ClC1=CC=C(C=N1)COC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C22H13Cl4N3O
